US04238492
Methyl 5-[4-(p-chlorobenzoyl)phenoxy]-2,2-dimethylpentanoate.
116 g (0.5 mole) of 4'-chloro-4-hydroxybenzophenone, 84 g (0.6 mole) of potassium carbonate and 500 cm3 of DMF are placed in a 1 liter flask. The mixture is brought to reflux and 90 g (0.5 mole) of methyl 5-chloro-2,2-dimethylpentanoate in 200 cm3 of DMF are then added from a dropping funnel. Reflux is continued for 3 hours. The mixture is then cooled and poured into 1 liter of water, so that the desired product precipitates. The precipitate is extracted with diethyl ether, washed with aqueous soda, then with water, dried and decolourised, and the solvent is evaporated under vacuum. 160 g of a white solid are obtained, which are recrystallised from diisopropyl ether. 130 g of the desired product are obtained, m.pt. 64° C.

reactant | 4'-chloro-4-hydroxybenzophenone | 0.5 mole, 116 g | ClC1=CC=C(C=C1)C(C1=CC=C(C=C1)O)=O | C13H9ClO2
reactant | potassium carbonate | 0.6 mole, 84 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl 5-chloro-2,2-dimethylpentanoate | 0.5 mole, 90 g | ClCCCC(C(=O)OC)(C)C | C8H15ClO2
reactant | water | 1 liter | O | H2O
solvent | DMF | 200 cm3 | CN(C)C=O | C3H7NO
solvent | DMF | 500 cm3 | CN(C)C=O | C3H7NO
product | Methyl 5-[4-(p-chlorobenzoyl)phenoxy]-2,2-dimethylpentanoate | ClC1=CC=C(C(=O)C2=CC=C(OCCCC(C(=O)OC)(C)C)C=C2)C=C1 | C21H23ClO4
